US07300951B2
A solution of lithium borohydride (23 mL, 2.0 M in THF, 45 mmol) was added dropwise to a solution of (4R)-4-benzyl-3-[(2R)-4,4,4-trifluoro-2-methylbutanoyl]-1,3-oxazolidin-2-one (12.9 g, 40.9 mmol) and water (810 μL, 45.0 mmol) in diethyl ether (200 nL) at 0° C. The reaction mixture was allowed to warm to 25° C. and, after 1 h, was cooled to 0° C. and quenched with aqueous 1 N NaOH (124 mL). The mixture was warmed to 25° C. and stirred until both layers were homogeneous. The layers were separated and the organic extract was washed with brine, dried using MgSO4 and concentrated. Flash chromatography (eluent: 3:7 ether-petether) provided (2R)-4,4,4-trifluoro-2-methylbutan-1-ol (5.05 g, 87%) as a colorless oil. 1H NMR was identical to that which was found in the literature (J. Med. Chem. 37: 1282–1297 (1994)).

reactant | lithium borohydride | 45 mmol, 2.0 M, 23 mL | [BH4-].[Li+]
reactant | (4R)-4-benzyl-3-[(2R)-4,4,4-trifluoro-2-methylbutanoyl]-1,3-oxazolidin-2-one | 40.9 mmol, 12.9 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](CC(F)(F)F)C)=O | C15H16F3NO3
reactant | water | 45.0 mmol, 810 μL | O | H2O
solvent | diethyl ether | 200 nL | C(C)OCC | C4H10O
product | (2R)-4,4,4-trifluoro-2-methylbutan-1-ol | 5.05 g, 87% | FC(C[C@H](CO)C)(F)F | C5H9F3O
